US07468375B2
To a solution of 1-(4-fluorobenzyl)-3-((3-oxopiperazin-1-yl)methyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid (9.0 g 23.50 mmol) in anhydrous DMF (285 mL) was added CDMT (4.95 g 28.20 mmol 1.2 eq.) and NMM (N-methyl morpholine) (2.85 g 28.2 mmol 1.2 eq.). The mixture, under nitrogen, was stirred for 70 min. N-Methylhydroxylamine hydrochloride (23.6 g 282.0 mmol 12.0 eq) was added and stirring continued for 3 hours. The reaction was judged to be complete by HPLC-MS analysis, and was quenched by adding water (100 mL) to the reaction mixture. The volatiles were removed in vacuo (ca. 2 torr, at 60° C.) to give a residue. Saturated aqueous sodium bicarbonate (120 mL) was added to neutralize to pH 7. White solid precipitated out, and the mixture was cooled to 5° C. The solid was filtered, washed with cold water (100 mL), and dried in vacuo to afford 7.7 g (85%) of 1-(4-fluorobenzyl)-N-hydroxy-N-methyl-3-((3-oxopiperazin-1-yl)methyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxamide at >95% purity by 1HNMR analysis. To obtain 99% purity, 7.7 g of the product was dissolved in a boiling mixture (700 mL) of methanol and isopropanol (1:9). The hot solution was filtered to remove trace impurities, and the filtrate was allowed to cool to room temperature. The product crystallized out as needle-like crystals, which was filtered, washed with isopropanol, and dried in vacuo to afford (3.0 g) 99% purity. LC-MS (Eclipse XDB-C8, 0.8 mL/min, gradient 80:20 to 5:95H2O (+0.1% HOAc):CH3CN—5 minutes, APCI, +mode): RT—2.27 min, m/e=412.30 (M+H+, base). 1H NMR (400 MHz, DMSO-D6) d ppm 2.55 (t, J=5.29 Hz, 2H) 2.92 (s, 2H) 3.11 (s, 2H) 3.32 (s, 3H) 3.73 (s, 2H) 5.54 (s, 2H) 7.16 (t, J=8.81 Hz, 2H) 7.35 (dd, J=8.56, 5.54 Hz, 2H) 7.71 (s, 1H) 7.83 (s, 1H) 8.09 (s, 1H) 8.86 (s, 1H).

reactant | 1-(4-fluorobenzyl)-3-((3-oxopiperazin-1-yl)methyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid | 23.50 mmol, 9.0 g | FC1=CC=C(CN2C=C(C=3C2=CN=C(C3)C(=O)O)CN3CC(NCC3)=O)C=C1 | C20H19FN4O3
reactant | NMM | 28.2 mmol, 2.85 g, 1.2 eq. | CN1CCOCC1 | C5H11NO
reactant | N-Methylhydroxylamine hydrochloride | 282.0 mmol, 23.6 g, 12.0 eq | Cl.CNO
reactant | sodium bicarbonate | 120 mL | C([O-])(O)=O.[Na+]
solvent | DMF | 285 mL | CN(C)C=O | C3H7NO
product | 1-(4-fluorobenzyl)-N-hydroxy-N-methyl-3-((3-oxopiperazin-1-yl)methyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxamide | 7.7 g, 85% | FC1=CC=C(CN2C=C(C=3C2=CN=C(C3)C(=O)N(C)O)CN3CC(NCC3)=O)C=C1 | C21H22FN5O3
